US06855710B2
(Z)-3-{1-[4-(N-carboxymethyl-N-methylsulphonyl-amino)-phenyl-amino]-1-phenyl-methylidene}-5-nitro-2-indolinone
Prepared analogously to Example 8 by saponification of (Z)-3-{1-[4-(N-ethoxycarbonylmethyl-N-methylsulphonyl-amino)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone with sodium hydroxide solution in dioxane.

reactant | (Z)-3-{1-[4-(N-ethoxycarbonylmethyl-N-methylsulphonyl-amino)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone | C(C)OC(=O)CN(S(=O)(=O)C)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C26H24N4O7S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (Z)-3-{1-[4-(N-carboxymethyl-N-methylsulphonyl-amino)-phenyl-amino]-1-phenyl-methylidene}-5-nitro-2-indolinone | C(=O)(O)CN(S(=O)(=O)C)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C24H20N4O7S
